US05726165
(SR)-4-{2-[2-Hydroxy-3-(4-hydroxy-3-hydroxymethylphenoxy)propylamino]propyl}phenoxymethylbenzylphosphinic acid
The title compound was prepared from (SR)-4-{2-[2-hydroxy-3-(4-hydroxy-3-hydroxymethyl-phenoxy)propylamino]propyl}phenoxymethylbenzylphosphinic acid, n-butyl ester according to the method described in Example 5 followed by acidification to pH 3.5 with 1M hydrochloric acid, as a solid (mp 180°-183° C.) following chromatography on C18 reverse phase silica-gel, eluting with 40% methanol in water.

reactant | (SR)-4-{2-[2-hydroxy-3-(4-hydroxy-3-hydroxymethyl-phenoxy)propylamino]propyl}phenoxymethylbenzylphosphinic acid, n-butyl ester | OC(CNC(CC1=CC=C(CP(OCCCC)(=O)COC2=CC=CC=C2)C=C1)C)COC1=CC(=C(C=C1)O)CO | C31H42NO7P
reactant | hydrochloric acid | 1M | Cl | ClH
product | (SR)-4-{2-[2-Hydroxy-3-(4-hydroxy-3-hydroxymethylphenoxy)propylamino]propyl}phenoxymethylbenzylphosphinic acid | OC(CNC(CC1=CC=C(CP(O)(=O)COC2=CC=CC=C2)C=C1)C)COC1=CC(=C(C=C1)O)CO | C27H34NO7P
